US05219987
(Boc-Asn-Asn-Pro-OH)
To a reaction vessel having 200 ml of capacity, and fitted with stirring means, 100 ml of DMF, 5.0 g (9.35 mmol) of Boc-Asn-Asn-Pro-OBzl and 2 g of Pd catalyst (10% of Pd on coal) are charged.

reactant | Boc-Asn-Asn-Pro-OBzl | 9.35 mmol, 5.0 g | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C25H35N5O8
catalyst | Pd | 2 g | [Pd] | Pd
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Boc-Asn-Asn-Pro-OH | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C18H29N5O8
